US04743614
To a mixture of methyl (2S)-3-oxo-2-tritylaminobutyrate (2.00 g) and methyl (2S)-2-amino-3-(3-indolyl)propionate mono-p-toluenesulfonate (3.13 g) in methanol (30 ml) was added sodium cyanoborohydride (360 mg) and the mixture was stirred for 1 day at room temperature. The mixture was diluted with chloroform and washed successively with water and brine. The organic phase was separated and dried over magnesium sulfate, and the solvent was evaporated in vacuo. The residue was chromatographed on a silica gel (50 g) column and the elution was carried out with a mixture of n-hexane and ethyl acetate (4:1). The object fractions were collected and evaporated in vacuo to give methyl (2S,3R)-3-[[(1S)-1-methoxycarbonyl-2-(3-indolyl)ethyl]amino]-2-tritylaminobutyrate (625 mg) as a pale yellow oil.

reactant | methyl (2S)-3-oxo-2-tritylaminobutyrate | 2.00 g | O=C([C@@H](C(=O)OC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H23NO3
reactant | methyl (2S)-2-amino-3-(3-indolyl)propionate mono-p-toluenesulfonate | 3.13 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H](C(=O)OC)CC1=CNC2=CC=CC=C12
reactant | sodium cyanoborohydride | 360 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl (2S,3R)-3-[[(1S)-1-methoxycarbonyl-2-(3-indolyl)ethyl]amino]-2-tritylaminobutyrate | 625 mg | COC(=O)[C@H](CC1=CNC2=CC=CC=C12)N[C@@H]([C@@H](C(=O)OC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H37N3O4
